US06197962B1
First, 8.05 g (113 mmol) of crotonaldehyde (2-butenal) and 9.17 g (54.9 mmol) of benzenesulfonyl cyanide were introduced to a 3-necked flask (50 ml volume) equipped with a thermometer, a magnetic stirrer, a Dean-Stark water type distilling receiver, and a condenser tube. Toluene (15 ml) as a solvent and butanol (1.5 ml) were added, and then 589 mg (5.55 mmol) of lithium perchlorate was added. Next, the mixture was heated under reflux for 15 hours while agitating at an internal temperature of 110° C. in a nitrogen atmosphere, and separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of toluene that had been cooled to 5° C. or lower. Then the crystal were dried for 2 hours in vacuo to give 10.8 g of 2-benzenesulfonylpyridine having the following properties as colorless crystals (purity of 99%, yield of 89% based on benzenesulfonyl cyanide).

reactant | crotonaldehyde | 113 mmol, 8.05 g | C(\C=C\C)=O | C4H6O
reactant | benzenesulfonyl cyanide | 54.9 mmol, 9.17 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | lithium perchlorate | 5.55 mmol, 589 mg | Cl(=O)(=O)(=O)[O-].[Li+]
product | 2-benzenesulfonylpyridine | 10.8 g, yield of 89% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=CC=C1 | C11H9NO2S
